US05593993
5-Benzyl-3-phenyl-2-thiohydantoin
A solution of DL-phenylalanine (1.65 g, 10 mmol), methyl N-phenyldithiocarbamate (1.85 g, 10 mmol), and triethylamine (1.4 mL, 10 mmol) in ethanol (30 mL) was heated at reflux for 5 h, the mixture was cooled to room temperature and the solvent removed in vacuo. The residue was dissolved in ethyl acetate, washed with 1N aqueous HCl and water. The organic layer was concentrated and the residue recrystallized form ethanol to provide 2.48 g (88%) of the titled product:

reactant | DL-phenylalanine | 10 mmol, 1.65 g | NC(CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | methyl N-phenyldithiocarbamate | 10 mmol, 1.85 g | C1(=CC=CC=C1)NC(SC)=S | C8H9NS2
reactant | triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-Benzyl-3-phenyl-2-thiohydantoin | 2.48 g, 88% | C(C1=CC=CC=C1)C1C(N(C(N1)=S)C1=CC=CC=C1)=O | C16H14N2OS
